US07229999B2
5-(4-Chloro-phenyl)-N-(2-cyclopropyl-2-hydroxy-propyl)-6-(2-methoxy-ethylamino)-nicotinamide
The title compound was synthesized in analogy to the procedure described for the preparation of Example 20, using 5-bromo-6-chloro-nicotinic acid methylester, 2-methoxy-ethylamine, 4-chlorophenyl-boronic acid and 2-cyclopropyl-2-hydroxy-propylamine (commercially available) as starting materials. MS (m/e): 404.4 (MH+).

reactant | 5-bromo-6-chloro-nicotinic acid methylester | COC(C1=CN=C(C(=C1)Br)Cl)=O | C7H5BrClNO2
reactant | 2-methoxy-ethylamine | COCCN | C3H9NO
reactant | 4-chlorophenyl-boronic acid | ClC1=CC=C(C=C1)B(O)O | C6H6BClO2
reactant | 2-cyclopropyl-2-hydroxy-propylamine | C1(CC1)C(CN)(C)O | C6H13NO
product | 5-(4-Chloro-phenyl)-N-(2-cyclopropyl-2-hydroxy-propyl)-6-(2-methoxy-ethylamino)-nicotinamide | ClC1=CC=C(C=C1)C=1C(=NC=C(C(=O)NCC(C)(O)C2CC2)C1)NCCOC | C21H26ClN3O3
